US08044062B2
Triethylamine (3.4 mL, 24.6 mmol) was added to a suspension of 2-amino-4-chloro-6-methylpyrimidine (Aldrich, 1.77 g, 12.3 mmol) and benzylamine (1.98 g, 18.5 mmol) in anhydrous dioxane (20 mL). The reaction was heated to 80° C. and allowed to run for 12 h. Upon cooling to room temperature, a white precipitate formed which was collected by vacuum filtration. The solid was recrystallized from acetone: hexanes to afford N4-benzyl-6-methylpyrimidine-2,4-diamine (2.33 g, 89% yield) as a white solid.

reactant | Triethylamine | 24.6 mmol, 3.4 mL | C(C)N(CC)CC | C6H15N
reactant | 2-amino-4-chloro-6-methylpyrimidine | 12.3 mmol, 1.77 g | NC1=NC(=CC(=N1)Cl)C | C5H6ClN3
reactant | benzylamine | 18.5 mmol, 1.98 g | C(C1=CC=CC=C1)N | C7H9N
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N4-benzyl-6-methylpyrimidine-2,4-diamine | 2.33 g, 89% yield | C(C1=CC=CC=C1)NC1=NC(=NC(=C1)C)N | C12H14N4
